US07521462B2
N-(3-methylbutyl)-N-[(1,3-thiazol-2-yl)methyl]piperidin-4-amine (0.13 g, 0.48 mmol) is dissolved in acetonitrile (0.5 ml). 1.0 M HCl (1.93 ml, 1.93 mmol) is added and solution placed under lyophilization conditions to yield (0.166 g) of N-(3-methylbutyl)-N-[(1,3-thiazol-2-yl)methyl]piperidin-4-amine dihydrochloride: mass spectrum (ion spray): m/z=268 (M+1); 1H NMR (DMSO-d6): δ=9.49-9.41 (1H, brd), 9.28-9.19 (1H, brm), 7.94 (2H, dd), 6.42 (1H, brs), 4.77 (2H, s), 3.67-3.56 (1H, brm), 3.38 (2H, d), 3.17-3.09 (2H, brm), 2.94-2.82 (2H, brm), 2.95-2.81 (2H, m), 2.31 (2H, brs), 2.21-2.08 (2H, m), 1.68-1.46 (3H, m), 0.84 (6H, d).

reactant | N-(3-methylbutyl)-N-[(1,3-thiazol-2-yl)methyl]piperidin-4-amine | 0.48 mmol, 0.13 g | CC(CCN(C1CCNCC1)CC=1SC=CN1)C | C14H25N3S
reactant | HCl | 1.93 mmol, 1.0 M, 1.93 ml | Cl | ClH
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | N-(3-methylbutyl)-N-[(1,3-thiazol-2-yl)methyl]piperidin-4-amine dihydrochloride | 0.166 g | Cl.Cl.CC(CCN(C1CCNCC1)CC=1SC=CN1)C | InChI=1S/C14H25N3S.2ClH/c1-12(2)5-9-17(11-14-16-8-10-18-14)13-3-6-15-7-4-13;;/h8,10,12-13,15H,3-7,9,11H2,1-2H3;2*1H
